US07825256B2
2-(N′-Acetyl-guanidinocarbothioyl)-pyrrolidine-1-carboxylic acid benzyl ester (13.0 g, 37.4 mmol) was dissolved in ethanol (80 mL). The ethanol solution was cooled to 0° C. and a solution of bromine (6.50 g, 40.6 mmol) in chloroform (30 mL) was added dropwise over 5 minutes. The resulting solution was allowed to return to room temperature while stirring for 3 hours. The reaction mixture was concentrated under vacuo to afford 14.0 g (88%) of 2-(3-acetylamino-[1,2,4]thiadiazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester hydrobromide.

reactant | 2-(N′-Acetyl-guanidinocarbothioyl)-pyrrolidine-1-carboxylic acid benzyl ester | 37.4 mmol, 13.0 g | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(=S)NC(=NC(C)=O)N | C16H20N4O3S
reactant | bromine | 40.6 mmol, 6.50 g | BrBr | Br2
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-acetylamino-[1,2,4]thiadiazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester hydrobromide | 14.0 g, 88% | Br.C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C1=NC(=NS1)NC(C)=O | InChI=1S/C16H18N4O3S.BrH/c1-11(21)17-15-18-14(24-19-15)13-8-5-9-20(13)16(22)23-10-12-6-3-2-4-7-12;/h2-4,6-7,13H,5,8-10H2,1H3,(H,17,19,21);1H
